US03950522
A solution of 5.9 g. of 2-pyridylacetonitrile in 15 ml. of dimethylsulfoxide is added to a suspension of 1.2 g. of sodium hydride in 25 ml. of dimethylsulfoxide with stirring. The mixture is heated on a stream bath for 2 hours, then cooled to room temperature. 1-Chloro-2-butene (4.5 g.) is added dropwise with stirring. The mixture is heated on a steam bath, with stirring, for 10 hours, then most of the solvent is removed in vacuo. Water is added to the residue, then 100 ml. of ether is added. The ethereal solution is separated from the aqueous layer and rinsed several times with water, then dried, concentrated and distilled to give 2-(2-pyridyl)-4-hexenenitrile.

reactant | 2-pyridylacetonitrile | N1=C(C=CC=C1)CC#N | C7H6N2
reactant | sodium hydride | [H-].[Na+]
reactant | 1-Chloro-2-butene | 4.5 g | ClCC=CC | C4H7Cl
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 2-(2-pyridyl)-4-hexenenitrile | N1=C(C=CC=C1)C(C#N)CC=CC | C11H12N2
